US05840732
i) Synthesis of 3-[4-(3-trifluoroacetylimidazo[1,2-a]-pyridin-5-ylthio)butyl]thiazolidine-2,4-dione
To a solution of 1.53 g (5.0 mmol) of 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 50 ml of dichloromethane, 7.06 ml (50 mmol) of trifluoroacetic anhydride was added under ice cooling conditions. To this reaction mixture, 8.36 ml (60 mmol) of triethylamine was added, followed by stirring for 1 hour. The reaction mixture was poured into 1N aqueous sodium hydroxide, extracted with dichloromethane and dried, after which the solvent was distilled off. The obtained residue was purified by column chromatography (eluent, n-hexane/ethyl acetate=5/1→2/1→1/1) to yield 415 mg (20.7%, white powder) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 5.0 mmol, 1.53 g | N=1C=CN2C1C=CC=C2SCCCCN2C(SCC2=O)=O | C14H15N3O2S2
reactant | trifluoroacetic anhydride | 50 mmol, 7.06 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 60 mmol, 8.36 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[4-(3-trifluoroacetylimidazo[1,2-a]-pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | FC(C(=O)C1=CN=C2N1C(=CC=C2)SCCCCN2C(SCC2=O)=O)(F)F | C16H14F3N3O3S2
